US05036067
Step 1: 3-Acetyldibenzo[b,f]thiepin
To a solution of dibenzo[b,f]thiepin-3-carboxylic acid (U.S. Pat. No. 4,536,507 (1985)) (415 mg, 1.63 mmole) in THF (20 mL) at 0° C. there was added methyl lithium in ether 1.4M (2.56 mL, 3.59 mmol); the mixture was stirred at 0° C. for 1 hour, then poured onto a well-stirred saturated aqueous ammonium chloride solution (100 mL). The organic phase was collected, washed twice with brine, dried and evaporated. Column chromatography on silica gel, eluting with a 1:2 mixture of ethyl acetate-hexane, afforded the title compound as a yellow solid (320 mg), m.p.: 82°-84° C.

reactant | dibenzo[b,f]thiepin-3-carboxylic acid | C1=CC(=CC=2SC3=C(C=CC21)C=CC=C3)C(=O)O | C15H10O2S
reactant | methyl lithium | C[Li]
reactant | ether | 3.59 mmol, 1.4M, 2.56 mL | CCOCC | C4H10O
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Acetyldibenzo[b,f]thiepin | 320 mg | C(C)(=O)C=1C=CC2=C(SC3=C(C=C2)C=CC=C3)C1 | C16H12OS
